US06207665B1
To a suspension of (2R,5S)-1-(4-fluorobenzyl)-2-(hydroxy)methyl-5-methylpiperazine-3,6-dione (2.0 g, 7.5 mmol) in anhydrous tetrahydrofuran (50 mL) under N2 at 0° C. was carefully added lithium aluminum hydride (2.2 g, 60 mmol). The resulting suspension was heated to reflux. After 15 hours, the mixture was cooled to ambient temperature and carefully quenched with water (2 mL), then 1 N aqueous KOH solution (6 mL). The resulting suspension was stirred at ambient temperature for 30 minutes, then filtered through Celite (ethyl acetate). The filtrate was concentrated in vacuo to afford 1.6 g (90% yield) of (2R,5S)-1-(4-fluorobenzyl)-2-(hydroxy)methyl-5-methylpiperazine, a compound of formula (S), as a white solid; NMR (CDCl3) 7.3 (dd, 2), 7.0 (dd, 2), 4.2-4.0 (m, 2), 3.5 (d, 1) 3.0 (m, 2), 2.7 (m, 2), 1.7 (m, 1), 1.0 (d, 3).

reactant | (2R,5S)-1-(4-fluorobenzyl)-2-(hydroxy)methyl-5-methylpiperazine-3,6-dione | 7.5 mmol, 2.0 g | FC1=CC=C(CN2[C@@H](C(N[C@H](C2=O)C)=O)CO)C=C1 | C13H15FN2O3
reactant | lithium aluminum hydride | 60 mmol, 2.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (2R,5S)-1-(4-fluorobenzyl)-2-(hydroxy)methyl-5-methylpiperazine | 1.6 g, 90% yield | FC1=CC=C(CN2[C@H](CN[C@H](C2)C)CO)C=C1 | C13H19FN2O
